US08455646B2
Preparation of (R)-methyl 2-phenyl-2-(phenylamino)acetate (I6)
Aniline (16.8 mL, 184 mmol) is added to a solution of (S)-methyl 2-(methylsulfonyloxy)-2-phenylacetate (I5) (22.4 g, 92.0 mmol) in CH3CN (50 mL). The mixture is heated under MW irradiation at 120° C. for 5 minutes (UPLC-MS monitoring: complete conversion). The resulting crude is partitioned between EtOAc (200 mL) and 1N HCl (200 mL) and the aqueous phase is extracted with EtOAc (3×200 mL). The combined organic layers are dried over Na2SO4, filtered and evaporated under vacuum to obtain 20.3 g of a pale yellow solid (92% yield), which is used in the next step without any additional purification.

reactant | Aniline | 184 mmol, 16.8 mL | NC1=CC=CC=C1 | C6H7N
reactant | (S)-methyl 2-(methylsulfonyloxy)-2-phenylacetate | 92.0 mmol, 22.4 g | CS(=O)(=O)O[C@H](C(=O)OC)C1=CC=CC=C1 | C10H12O5S
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | (R)-methyl 2-phenyl-2-(phenylamino)acetate | 20.3 g, 92% yield | C1(=CC=CC=C1)[C@H](C(=O)OC)NC1=CC=CC=C1 | C15H15NO2
